US05190690
Step i) 2.00 g (5.87 mM) of 4-(5-dodecylpyrimidine-2-yl)phenol was dispersed in 20 ml of conc. sulfuric acid. To the dispersion, 0.50 ml of nitric acid (60%, density=1.38) was gradually added dropwise under cooling and stirring at 2°-8° C. After the addition, the mixture was stirred for 30 min. at about 5° C. After the reaction, the reaction mixture was poured into 150 ml of iced water to precipitate a crystal. The crystal was recovered by filtration, washed with water and recrystallized from ethanol to obtain 1.85 g of 2-nitro-4-(5-dodecylpyrimidine-2-yl)phenol (yield:81.7%).

reactant | 4-(5-dodecylpyrimidine-2-yl)phenol | 5.87 mM, 2.00 g | C(CCCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C22H32N2O
reactant | nitric acid | 0.50 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 150 ml | O | H2O
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2-nitro-4-(5-dodecylpyrimidine-2-yl)phenol | 1.85 g, yield:81.7% | [N+](=O)([O-])C1=C(C=CC(=C1)C1=NC=C(C=N1)CCCCCCCCCCCC)O | C22H31N3O3
